US07759337B2
Step) 5: (E)-2-Fluoro-3-iodo-4-methylbenzaldehyde oxime
A solution of 2-fluoro-3-iodo-4-methylbenzaldehyde (1.26 g, 4.77 mmol) in ethanol (5 mL) at RT was treated with hydroxylamine (5 mL) (50% wt. in water) and the reaction stirred for 3 h. The volatiles were removed and the residue was treated with water (5 mL), extracted with ethyl acetate (3×15 mL). The combined ethyl acetate layers were dried and concentrated. Purification on a 40 g ISCO column (eluted with 10-50% ethyl acetate in hexanes) provided the title compound as an off-white crystalline solid. MS (ESI, pos. ion) m/z: 280.0 (M+1).

reactant | 2-fluoro-3-iodo-4-methylbenzaldehyde | 4.77 mmol, 1.26 g | FC1=C(C=O)C=CC(=C1I)C | C8H6FIO
reactant | hydroxylamine | 5 mL | NO | H3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (E)-2-Fluoro-3-iodo-4-methylbenzaldehyde oxime | FC1=C(/C=N/O)C=CC(=C1I)C | C8H7FINO
